US08309562B2
N2-(2-Chloro-ethyl)-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine
A mixture of (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine 0.671 g (2.0 mmol), 2-chloro-ethylamine hydrochloride 0.58 g (5.0 mmol) and N-methylmorpholine 1.0 mL in DMF 1.0 mL was stirred under microwave irradiation at 130° C. for 20 minutes. The crude mixture was directly charged to silica-gel, and purified by MPLC (SiO2, EtOAc 0˜100% in hexanes) to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.44-7.46 (m, 1H), 7.34-7.38 (m, 1H), 7.08-7.11 (m, 2H), 6.85-6.91 (m, 3H), 6.65-6.70 (m, 1H), 3.92-3.94 (m, 2H), 3.82-3.84 (m, 2H), 3.82 (s, 3H), 3.50 (s, 3H).

reactant | (2-chloroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine | 2.0 mmol, 0.671 g | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | 2-chloro-ethylamine hydrochloride | 5.0 mmol, 0.58 g | Cl.ClCCN
reactant | N-methylmorpholine | 1.0 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N2-(2-Chloro-ethyl)-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-2,4-diamine | ClCCNC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C18H19ClN4O
